US04906755
Oxalyl chloride (0.76 ml) was slowly added to a stirred solution of 1 g of 5-methylindole in 20 ml of anhydrous ether at 0° C. The precipitate which formed was filtered off and dried at 80° C. to give 5-methyl-3-indolylglyoxylyl chloride.

reactant | Oxalyl chloride | 0.76 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-methylindole | 1 g | CC=1C=C2C=CNC2=CC1 | C9H9N
solvent | ether | 20 ml | CCOCC | C4H10O
product | 5-methyl-3-indolylglyoxylyl chloride | CC=1C=C2C(=CNC2=CC1)C(C(=O)Cl)=O | C11H8ClNO2
